US07262201B1
Using an analogous procedure to that described for Example 9, 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (134 mg, 0.5 mmol), (prepared as described for the starting material in Example 4), was reacted with 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one (190 mg, 1 mmol) in the presence of sodium hydride (40 mg, 1 mmol, prewashed with THF) in DMF (3 ml) to give 6-methoxy-7-(2-methoxyethoxy)-4-(5-(4-methoxyphenyl)pyrazol-3-yloxy)quinazoline (125 mg, 59%).

reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.5 mmol, 134 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
reactant | 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one | 1 mmol, 190 mg | COC1=CC=C(C=C1)C1=NNC(C1)=O | C10H10N2O2
reactant | sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(2-methoxyethoxy)-4-(5-(4-methoxyphenyl)pyrazol-3-yloxy)quinazoline | 125 mg, 59% | COC=1C=C2C(=NC=NC2=CC1OCCOC)OC1=NNC(=C1)C1=CC=C(C=C1)OC | C22H22N4O5
